US08212041B2
A 250 mL RB flask was charged with DMF (21.3 ml, 274 mmol) and cooled to 0° C.; phosphorus oxychloride (2.46 ml, 26.4 mmol) was added dropwise. This was stirred for 1 hour, then 6-bromoH-imidazo[1,2-a]pyridine (2.00 g, 10.2 mmol) was added in one portion. This was stirred at 100° C. for 5 hours and at room temperature for 16 hours. The flask was cooled to 0° C. and slowly neutralized with 6N aq. NaOH and sat. aq. NaHCO3, resulting in the formation of a precipitate which was collected by filtration to give 6-bromoH-imidazo[1,2-a]pyridine-3-carbaldehyde as a yellow-orange solid.

reactant | DMF | 274 mmol, 21.3 ml | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 26.4 mmol, 2.46 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-bromoH-imidazo[1,2-a]pyridine | 10.2 mmol, 2.00 g | C1=CC2=NC=CN2C=C1Br | C7H5BrN2
reactant | NaOH | 6N | [OH-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 6-bromoH-imidazo[1,2-a]pyridine-3-carbaldehyde | C1=CC2=NC=C(N2C=C1Br)C=O | C8H5BrN2O
